US09162971B2
(2-d) 3-Methylbicyclo[3.2.0]hept-3-en-6-one
(2E)-4-Methylhepta-2,6-dienoic acid (67.74 g) obtained by the method described above was dissolved in N,N-dimethylacetamide (210 mL) under a nitrogen atmosphere. To the solution, acetic anhydride (91 mL, 0.96 mol) and triethylamine (67 mL, 0.48 mol) were added. The reaction mixture was warmed and stirred at 115 to 120° C. for 6 hours. The reaction mixture was cooled to room temperature, and n-hexane (360 mL) and water (540 mL) were added thereto to separate an organic layer. The aqueous layer was subjected to two extractions with hexane (each with 180 mL), and all the organic layers were combined and then washed with a 5% aqueous sodium bicarbonate solution (90 mL) and water (90 mL) in this order. The obtained organic layer was concentrated under reduced pressure, and the residue was distilled (74-76° C., approximately 25 mmHg) to obtain the title compound (39.09 g, colorless oil substance) (overall yield from 1,1-bis(allyloxy)propane: 54%).

reactant | acetic anhydride | 0.96 mol, 91 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 0.48 mol, 67 mL | C(C)N(CC)CC | C6H15N
reactant | n-hexane | 360 mL | CCCCCC | C6H14
reactant | water | 540 mL | O | H2O
solvent | N,N-dimethylacetamide | 210 mL | CN(C(C)=O)C | C4H9NO
product | 3-Methylbicyclo[3.2.0]hept-3-en-6-one | 39.09 g, 54% | CC=1CC2CC(C2C1)=O | C8H10O
